US06197729B1
a) 8-(2,2,2-trifluoroethylidene)-1,4-dioxaspiro[4.5]decane
At −100° C., 22 g of 1,1-difluoroethylene were condensed into a solvent mixture of 400 ml of tetrahydrofuran and 100 ml of diethyl ether. Subsequently, 153 ml of a 1.3 molar solution of sec-BuLi were added dropwise to the reaction solution at a temperature between −90° C. and −100° C. Finally, 31.2 g of 1,4-dioxaspiro[4.5]decane were added, the solution was stirred at −100° C. for another 20 minutes and subsequently warmed to 0° C. with stirring. The reaction solution was poured into an aqueous ammonium chloride and extracted with methylene chloride and the combined organic phases were dried over magnesium sulfate and concentrated. The residue was taken up in 400 ml of methylene chloride and, at −70° C., reacted with 32 g (0.2 mol) of DAST, dissolved in 100 ml of methylene chloride. The mixture was then slowly warmed to 0° C. with stirring, and the reaction solution was subsequently poured into an aqueous ammonium chloride. The product was extracted with diethyl ether and the combined organic phases were dried over MgSO4 and concentrated. The residue was chromatographed over silica gel (petroleum ether/ethyl acetate 4:1), to give the title product as a colourless oil.

reactant | 1,1-difluoroethylene | 22 g | FC(=C)F | C2H2F2
reactant | sec-BuLi | [Li]C(C)CC
reactant | 1,4-dioxaspiro[4.5]decane | 31.2 g | O1CCOC12CCCCC2 | C8H14O2
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | DAST | 0.2 mol, 32 g | CCN(CC)S(F)(F)F | C4H10F3NS
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
product | 8-(2,2,2-trifluoroethylidene)-1,4-dioxaspiro[4.5]decane | FC(C=C1CCC2(OCCO2)CC1)(F)F | C10H13F3O2
